US09315521B2
2-{[(5-chloro-1,3-dimethyl-1H-pyrazol-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol, (150 mg, 527 μmol) was stirred in methanol (30 mL) and a solution of 4 N HCl in dioxane (395 μL, 1.6 mmol) was added dropwise at 0° C. The mixture was stirred for 30 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford to 2-{[(5-chloro-1,3-dimethyl-1H-pyrazol-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol dihydrochloride (143 mg, 76% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.18 (s, 3H), 2.23 (s, 3H), 3.70 (s, 3H), 4.21 (s, 2H), 6.09 (s, 1H); LRMS (ES+) m/z 285 (40%, M+1), 287 (15%, M+3).

reactant | 2-{[(5-chloro-1,3-dimethyl-1H-pyrazol-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 527 μmol, 150 mg | ClC1=C(C(=NN1C)C)CSC1=NC(=CC(=N1)O)C | C11H13ClN4OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 1.6 mmol, 395 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
product | 2-{[(5-chloro-1,3-dimethyl-1H-pyrazol-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol dihydrochloride | 143 mg, 76% yield | Cl.Cl.ClC1=C(C(=NN1C)C)CSC1=NC(=CC(=N1)O)C | InChI=1S/C11H13ClN4OS.2ClH/c1-6-4-9(17)14-11(13-6)18-5-8-7(2)15-16(3)10(8)12;;/h4H,5H2,1-3H3,(H,13,14,17);2*1H
